2122-03-19 06:01:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-3-18**] 05:15 PM
 MULTI LUMEN - START [**2122-3-18**] 05:44 PM
   CVP initially [**2-15**], with some improvement after ivfs.  Overnight,
   patient went for CTA to r/o PE.  No evidence of PE, but prelim read
   evident for new diffuse ground glass opacification of right lung [**3-17**]
   pulmonary edema vs infection.  CT head was preliminarily sig for
   cerebral edema and uncal herniation.  Neurology and Neurosurgery
   consulted.  Neurology concerned for papilledema and increased ICP,
   recommended starting mannitol and checking serum na and osm serially.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2122-3-18**] 08:39 PM
   Fluconazole - [**2122-3-18**] 08:39 PM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2122-3-18**] 06:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-19**] 05:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 90 (90 - 111) bpm
   BP: 85/58(64) {85/55(64) - 111/76(83)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 3 (1 - 6)mmHg
   Mixed Venous O2% Sat: 94 - 94
                                Total In:
                                                                    593 mL
                                                                  1,144 mL
   PO:
                                TF:
   IVF:
                                                                    593 mL
                                                                  1,144 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    620 mL
   Urine:
                                                                    450 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    143 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (300 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.48/42/120/31/7
   Ve: 7.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: Intubated; Jaundice; Diffuse erythematous maculopapular rash with
   areas of desquamation
   HEENT: Sclera icterus, edematous
   CV: Holosystolic murmur at LSB;  sinus tachycardia
   Pulm: Coarse crackles bilaterally
   Abdom: +BS, soft, non-tender, non-distended, no obvious organomegally
   Ext: 2+ edema bl
   Neuro: Patient more alert this AM, is able to follow commands, pupils
   reactive to light, down going toes, 4/5 strength in LLE, 4+/5 strength
   in RLE, good hand grip
   Labs / Radiology
   390
   9.2
   186 mg/dL
   0.2
   27 mEq/L
   4.6 mEq/L
   22 mg/dL
   94 mEq/L
   129 mEq/L
   27.9
   3.5.4
        [image002.jpg]
   CK: 405
   MB: 62
   MBI: 15.3
   Trop-T: 0.16
   Ca: 7.4 Mg: 2.1 P: 2.9
   ALT: 268
   AP: 448
   Tbili: 21.1
   Alb:
   AST: 228
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 429**]:
   Lip:
   Cortsol: 14.4
   PT: 18.0
   PTT: 41.9
   INR: 1.6
                             [**2122-3-18**]  01:39 PM
                             [**2122-3-18**]  06:58 PM
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
   Cr
   0.4
   TropT
   0.16
   TCO2
   39
   36
   33
   32
   Glucose
   186
   Other labs: CK / CKMB / Troponin-T:518/82/0.16, Lactic Acid:1.8 mmol/L,
   Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ASSESSMENT AND PLAN:
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis.
   # Cerebral Encephalitis/Edema/Uncal Herniation: At this time the
   etiology is unclear, but differential is broad. Infectious etiology for
   encephalitis/meningitis is particularly of concern.  Patient
s initial
   complaint of shortness of breath may be related to viral
   syndrome/bacterial infection.   Her recent CTA is notable for right
   lobe ground glass opacities, new from OSH, but seen on old CT from 1
   month ago.  Viral etiology include: HSV, H1N1.  Bacterial etiology
   include: Strep pneumo, hemophaelus, meningococcal, listeria
   (particularly in the setting of prior listeria bacteremia).  She has a
   marked rise in her leukocytosis (~35) from baseline of teens, though
   this could also be explained as a reactive rise secondary to receiving
   iv steroids at OSH.  Other possibility is malignancy.  Patient has
   known metastatic malignancy, and these changes seen on head CT can
   reflect metastasis/leptomeningeal spread of malignancy.  Finally,
   metabolic etiology including hepatitis and hyponatremia should be
   considered.  She also has recently suffered an insult: acute hepatitis
   that was suspected to be related to herbal medicine ingestion.  A toxic
   metabolic effect from hepatic encephalopathy can cause acute elevations
   in ICP and cerebral edema.  Though her LFTs remain are high but at
   baseline, CT prelim read is concerning for mets to abdomen.
   - Continue to cover with broad spectrum antibiotics: Aztreonam (pcn
   allergy), Vanc (which should cover listeria, though this is not ideal
   coverage and ampicillin is the preferred choice), Fluconazole (given
   likely superimposed fungal infection of skin rash)
   - Will add tamiflu, flu swab is pending and acyclovir for HSV
   - Infectious work up: sputum, urine, blood, r/o flu
   - ID consult re: abx regimen in particular listeria coverage should be
   confirmed
   - Appreciate neurology recs
   - Urgent MRI head r/o mass/metastasis and evaluate further herniation
   - Mannitol 25 Q6hr
   - Q1hour neuro check
   - Holding LP given ? herniation on CT
   - Serum Na and Osm Q6h, not to exceed Na 150, osm 350
   - Continue to trend LFTs
   - F/u final read of CTA chest
   - F/u final read of CT head
   - Follow LFTs and check RUQ US to further assess liver dysfunction
   - Trend leukocytosis
   - Trend fever curve
   - Neurosurg consult
   # Shock:  Currently patient is on levophed.  The etiology of shock
   remains broad.  Patient is with low CVP, can be secondary to
   distributive shock secondary to infection (as outlined above) vs
   adrenal insufficiency (low cortisol/hyponatremia).  Hypovolemia is
   another possibility, though less likely to explain entire picture.  Her
   most recent echo was significant for tumor compression of LV, pulm HTN,
   and mild MR.  [**Name13 (STitle) 53**] is likely preload dependent and in the setting of
   intubation CO can be compromised with poor forward flow.  Will need to
   follow up with a new echo on this admission.  Of note, CTA not sig for
   PE.
   - Wean sedation as tolerated
   - Cont. levophed, titrate to MAP > 60
   - Infectious work up as outlined above with: sputum, blood, urine and
   empiric antibiotic, antifungal, and antiviral regimen.
   - Stress steroids today for adrenal insufficiency
   - ECHO for further evaluation
   - IVFs
   .
   # Respiratory Failure s/p Intubation:  Per Onc, her respiratory status
   is poor at baseline.  At baseline, she is hypercarbic with elevated
   pCO2 and HCO3.  Per family, were concerned that patient was short of
   breath and she was intubated in the ED.  Major concerns are her
   underlying restrictive pulmonary disease with markedly reduced lung
   volumes and moderate pulmonary hypertension.  Her CTA is notable for
   worsening ground glass opacities in the right lung concerning for
   infection, which are concerning for an overlying infectious etiology
   (viral vs bacterial).  Given her myasthenia [**Last Name (un) 3383**], a flare is a
   possibility though she has been in remission per OMR notes.   Will need
   a follow up Echo as mentioned above.
   - Follow infectious work up as outlined
   - Treat with aztreonam/vanc/fluc/acyclovir/tamiflu empirically
   - F/u final CT head
   - F/u final read CTA
   - MRI head stat
   - Echo
   - Check NIFs as patient is more alert this AM
   - Wean sedation as tolerated
   .
   # Leukocytosis: Concerning for infectious etiology as outlined above
   differential broad.  Pulm source is possibility given new findings on
   CT chest.  Viral (H1N1) vs Bacterial (atypical vs typicals) are
   possible etiologies.  Patient also w/ recent listeria bacteremia.
   Other potential culprits: HSV encephalitis or fungal infection.
   Patient did receive high dose steroid in OSH and does have cerebral
   edema, and certainly a component of her leukocytosis may be reactive.
   - Infectious w/o as previously outlined with current broad spec
   abx/antifungal/anti viral agents
   - Trend CBC
   - Trend fever curve
   .
   # Elevated Trop:  EKG without acute changes significant for ischemia,
   but evident for some old STDs.  Trop not rising.  No PE on CTA
   -  EKGs
   - ECHO
   .
   # Hepatitis:  Can be contributing to current picture of
   encephalopathy.  Pt had an extensive work-up on last admission, found
   to have toxin-induced hepatitis, likely from her Eastern herbal
   medications; however current CT abdomen concerning for progression of
   malignancy which can also be attributed to her hepatic dysfunction.  Of
   note atypical cells noted on para during last admission.  She appears
   to have minimal sythetic dysfunction.
   - Right upper quadrant ultrasound
   - Trend LFTs
   - Holding furosemide, spironolactone given shock above
   .
   # Rash: Likely drug reaction to meropenem was noted on last discharge
   summary.  There remains a concern for superimposed fungal infection.
   - Monitor rash as pt received dose of meropenam in ED
   - Fluconazole
   - If receives pcn/cephalosporins will need desensitization
   .
   # Hyponatremia:  Improved with ivfs which is consistent with
   hypovolemic hyponatremia.  However, in the setting of cerebral edema,
   possible pneumonia will continue to monitor hyponatremia related to
   SIADH
   - Trend NA
   - Hold Furosemide, Spironolactone as above
   - IVFs for shock
   .
   # Myasthenia [**Last Name (un) **]:  Per Neuro clinic notes, this has been in
   remission for the past 2 years.  She has not had any recent medications
   that might have induced a flare.
   - Will wean sedation to check a NIF
   - Consider Tensilon test
   .
   # Malignant Thymoma:  Per Onc, there are no further treatment options.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   20 Gauge - [**2122-3-18**] 05:50 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:
   VAP:
   Comments: Monitor lytes, NPO for now, IVFs
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU given above issues

2122-03-20 07:21:00 Physician Resident Progress Note
Chief Complaint: altered mental status. dyspnea
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-3-19**] 10:49 AM
 MAGNETIC RESONANCE IMAGING - At [**2122-3-19**] 01:37 PM
 ULTRASOUND - At [**2122-3-19**] 03:07 PM
 LUMBAR PUNCTURE - At [**2122-3-19**] 06:16 PM
   -LP: Pressures 23mmHg, cell counts not c/w meningitis, awaiting cx data
   -A line attempted no success
   -Spoke with husband, plan for family meeting at 2pm Friday
   -ID wanted KUB and c diff sent
   -FiO2 weaned from 60 to 50 to 40
   -NIF 14
   1.       Bolused 1 liter for CPV <8 with no improvement
   2.       Levophed titrated down from .25mcg/kg/min to .15mcg
   3.       LP successfully performed @ bedside.
   ID:
   Continue acyclovir, other antibiotics until culture data back but low
   suspicion
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-19**] 08:02 PM
   Fluconazole - [**2122-3-19**] 08:45 PM
   Acyclovir - [**2122-3-19**] 11:55 PM
   Aztreonam - [**2122-3-19**] 11:55 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2122-3-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-19**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2122-3-20**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 89 (69 - 99) bpm
   BP: 108/59(76) {108/59(76) - 112/60(80)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 1 (0 - 12)mmHg
   Total In:
                                                                  7,105 mL
                                                                    223 mL
   PO:
   TF:
   IVF:
                                                                  7,045 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                    765 mL
   Urine:
                                                                  2,915 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,190 mL
                                                                   -542 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 303 (303 - 303) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///28/
   NIF: -14 cmH2O
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   372 K/uL
   8.9 g/dL
   122 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.9 mEq/L
   20 mg/dL
   102 mEq/L
   134 mEq/L
   26.5 %
   21.3 K/uL
        [image002.jpg]
                             [**2122-3-18**]  01:39 PM
                             [**2122-3-18**]  06:58 PM
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
                             [**2122-3-19**]  04:57 AM
                             [**2122-3-20**]  04:47 AM
   WBC
   35.4
   21.3
   Hct
   27.9
   26.5
   Plt
   390
   372
   Cr
   0.4
   0.2
   0.3
   TropT
   0.16
   0.16
   TCO2
   39
   36
   33
   32
   Glucose
   186
   155
   122
   Other labs: PT / PTT / INR:18.0/38.3/1.6, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:223/182, Alk Phos / T Bili:394/19.5,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:651 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: .
   Imaging: .
   RUQ ultrasound with dopplers:
   IMPRESSION: 1. Patent portal vein and hepatic veins. Near-absent
   diastolic flow within the right, left and main hepatic arteries. 2.
   Coarse and echogenic liver. The diminished diastolic flow within the
   hepatic arteries is likely due to this underlying diffuse hepatic
   parenchymal abnormality. 3. Gallbladder wall thickening related to
   underlying hepatic parenchymal abnormality. Abdominal ascites.
   On [**3-19**] MRI head showed no evidence of cerebral edema or herniation and
   serum osmos and mannitol were subsequently d/c. Since admssion Ms. [**Known lastname **]
   has been hyponatremic and with the aformentioned concern for cerebral
   edema all IV abx and pressors are currently mixed in NS.
   Microbiology: .
   [1][**2122-3-19**]
   CSF;SPINAL FLUID
   GRAM STAIN-FINAL
 no microorganisms
   FLUID CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [2][**2122-3-19**]
   Rapid Respiratory Viral Screen & Culture
   Inadequate
   INPATIENT
   [3][**2122-3-19**]
   Influenza A/B by DFA
   inadequate
   INPATIENT
   [4][**2122-3-18**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [5][**2122-3-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [6][**2122-3-18**]
   URINE
   URINE CULTURE-FINAL
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ASSESSMENT AND PLAN:
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis.
   # Cerebral Encephalitis/Edema/Uncal Herniation: At this time the
   etiology is unclear, but differential is broad. Infectious etiology for
   encephalitis/meningitis is particularly of concern.  Patient
s initial
   complaint of shortness of breath may be related to viral
   syndrome/bacterial infection.   Her recent CTA is notable for right
   lobe ground glass opacities, new from OSH, but seen on old CT from 1
   month ago.  Viral etiology include: HSV, H1N1.  Bacterial etiology
   include: Strep pneumo, hemophaelus, meningococcal, listeria
   (particularly in the setting of prior listeria bacteremia).  She has a
   marked rise in her leukocytosis (~35) from baseline of teens, though
   this could also be explained as a reactive rise secondary to receiving
   iv steroids at OSH.  Other possibility is malignancy.  Patient has
   known metastatic malignancy, and these changes seen on head CT can
   reflect metastasis/leptomeningeal spread of malignancy.  Finally,
   metabolic etiology including hepatitis and hyponatremia should be
   considered.  She also has recently suffered an insult: acute hepatitis
   that was suspected to be related to herbal medicine ingestion.  A toxic
   metabolic effect from hepatic encephalopathy can cause acute elevations
   in ICP and cerebral edema.  Though her LFTs remain are high but at
   baseline, CT prelim read is concerning for mets to abdomen.
   - Continue to cover with broad spectrum antibiotics: Aztreonam (pcn
   allergy), Vanc (which should cover listeria, though this is not ideal
   coverage and ampicillin is the preferred choice), Fluconazole (given
   likely superimposed fungal infection of skin rash)
   - Will add tamiflu, flu swab is pending and acyclovir for HSV
   - Infectious work up: sputum, urine, blood, r/o flu
   - ID consult re: abx regimen in particular listeria coverage should be
   confirmed
   - Appreciate neurology recs
   - Urgent MRI head r/o mass/metastasis and evaluate further herniation
   - Mannitol 25 Q6hr
   - Q1hour neuro check
   - Holding LP given ? herniation on CT
   - Serum Na and Osm Q6h, not to exceed Na 150, osm 350
   - Continue to trend LFTs
   - F/u final read of CTA chest
   - F/u final read of CT head
   - Follow LFTs and check RUQ US to further assess liver dysfunction
   - Trend leukocytosis
   - Trend fever curve
   - Neurosurg consult
   # Shock:  Currently patient is on levophed.  The etiology of shock
   remains broad.  Patient is with low CVP, can be secondary to
   distributive shock secondary to infection (as outlined above) vs
   adrenal insufficiency (low cortisol/hyponatremia).  Hypovolemia is
   another possibility, though less likely to explain entire picture.  Her
   most recent echo was significant for tumor compression of LV, pulm HTN,
   and mild MR.  [**Name13 (STitle) 53**] is likely preload dependent and in the setting of
   intubation CO can be compromised with poor forward flow.  Will need to
   follow up with a new echo on this admission.  Of note, CTA not sig for
   PE.
   - Wean sedation as tolerated
   - Cont. levophed, titrate to MAP > 60
   - Infectious work up as outlined above with: sputum, blood, urine and
   empiric antibiotic, antifungal, and antiviral regimen.
   - Stress steroids today for adrenal insufficiency
   - ECHO for further evaluation
   - IVFs
   .
   # Respiratory Failure s/p Intubation:  Per Onc, her respiratory status
   is poor at baseline.  At baseline, she is hypercarbic with elevated
   pCO2 and HCO3.  Per family, were concerned that patient was short of
   breath and she was intubated in the ED.  Major concerns are her
   underlying restrictive pulmonary disease with markedly reduced lung
   volumes and moderate pulmonary hypertension.  Her CTA is notable for
   worsening ground glass opacities in the right lung concerning for
   infection, which are concerning for an overlying infectious etiology
   (viral vs bacterial).  Given her myasthenia [**Last Name (un) 3383**], a flare is a
   possibility though she has been in remission per OMR notes.   Will need
   a follow up Echo as mentioned above.
   - Follow infectious work up as outlined
   - Treat with aztreonam/vanc/fluc/acyclovir/tamiflu empirically
   - F/u final CT head
   - F/u final read CTA
   - MRI head stat
   - Echo
   - Check NIFs as patient is more alert this AM
   - Wean sedation as tolerated
   .
   # Leukocytosis: Concerning for infectious etiology as outlined above
   differential broad.  Pulm source is possibility given new findings on
   CT chest.  Viral (H1N1) vs Bacterial (atypical vs typicals) are
   possible etiologies.  Patient also w/ recent listeria bacteremia.
   Other potential culprits: HSV encephalitis or fungal infection.
   Patient did receive high dose steroid in OSH and does have cerebral
   edema, and certainly a component of her leukocytosis may be reactive.
   - Infectious w/o as previously outlined with current broad spec
   abx/antifungal/anti viral agents
   - Trend CBC
   - Trend fever curve
   .
   # Elevated Trop:  EKG without acute changes significant for ischemia,
   but evident for some old STDs.  Trop not rising.  No PE on CTA
   -  EKGs
   - ECHO
   .
   # Hepatitis:  Can be contributing to current picture of
   encephalopathy.  Pt had an extensive work-up on last admission, found
   to have toxin-induced hepatitis, likely from her Eastern herbal
   medications; however current CT abdomen concerning for progression of
   malignancy which can also be attributed to her hepatic dysfunction.  Of
   note atypical cells noted on para during last admission.  She appears
   to have minimal sythetic dysfunction.
   - Right upper quadrant ultrasound
   - Trend LFTs
   - Holding furosemide, spironolactone given shock above
   .
   # Rash: Likely drug reaction to meropenem was noted on last discharge
   summary.  There remains a concern for superimposed fungal infection.
   - Monitor rash as pt received dose of meropenam in ED
   - Fluconazole
   - If receives pcn/cephalosporins will need desensitization
   .
   # Hyponatremia:  Improved with ivfs which is consistent with
   hypovolemic hyponatremia.  However, in the setting of cerebral edema,
   possible pneumonia will continue to monitor hyponatremia related to
   SIADH
   - Trend NA
   - Hold Furosemide, Spironolactone as above
   - IVFs for shock
   .
   # Myasthenia [**Last Name (un) **]:  Per Neuro clinic notes, this has been in
   remission for the past 2 years.  She has not had any recent medications
   that might have induced a flare.
   - Will wean sedation to check a NIF
   - Consider Tensilon test
   .
   # Malignant Thymoma:  Per Onc, there are no further treatment options.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   20 Gauge - [**2122-3-18**] 05:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);

2122-03-21 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-3-20**] 05:40 PM
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Fluconazole - [**2122-3-19**] 08:45 PM
   Vancomycin - [**2122-3-20**] 08:00 PM
   Tamiflu - [**2122-3-20**] 08:00 PM
   Aztreonam - [**2122-3-21**] 01:40 AM
   Acyclovir - [**2122-3-21**] 02:40 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-21**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 88 (83 - 118) bpm
   BP: 104/55(72) {95/53(69) - 139/83(107)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  1,501 mL
                                                                    411 mL
   PO:
   TF:
   IVF:
                                                                  1,351 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    330 mL
   Urine:
                                                                  1,625 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -124 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 188
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.35/54/105/28/3
   Ve: 5.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   418 K/uL
   8.9 g/dL
   129 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   27 mg/dL
   106 mEq/L
   138 mEq/L
   26.1 %
   21.1 K/uL
        [image002.jpg]
                             [**2122-3-18**]  01:39 PM
                             [**2122-3-18**]  06:58 PM
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
                             [**2122-3-19**]  04:57 AM
                             [**2122-3-20**]  04:47 AM
                             [**2122-3-21**]  03:52 AM
                             [**2122-3-21**]  04:08 AM
   WBC
   35.4
   21.3
   21.1
   Hct
   27.9
   26.5
   26.1
   Plt
   390
   372
   418
   Cr
   0.4
   0.2
   0.3
   0.3
   TropT
   0.16
   0.16
   TCO2
   39
   36
   33
   32
   31
   Glucose
   186
   155
   122
   129
   Other labs: PT / PTT / INR:16.4/56.4/1.5, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:225/148, Alk Phos / T Bili:352/17.8,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:655 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   20 Gauge - [**2122-3-18**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-21 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-3-20**] 05:40 PM
   Overnight: Patient got a-line placed, fluconazole was stopped, a
   bronchoscopy was done that did not show mass BAL sent.  A head CTA was
   done to r/o aneurysm.  Norepinephrine was reduced.
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Fluconazole - [**2122-3-19**] 08:45 PM
   Vancomycin - [**2122-3-20**] 08:00 PM
   Tamiflu - [**2122-3-20**] 08:00 PM
   Aztreonam - [**2122-3-21**] 01:40 AM
   Acyclovir - [**2122-3-21**] 02:40 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 88 (83 - 118) bpm
   BP: 104/55(72) {95/53(69) - 139/83(107)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  1,501 mL
                                                                    433 mL
   PO:
   TF:
   IVF:
                                                                  1,351 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    330 mL
   Urine:
                                                                  1,625 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -124 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 188
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.35/54/105/28/3
   Ve: 5.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   HEENT: sclera icteric
   CV: holosystolic murmur, regular rate
   Pulm: bibasilar crackles
   Abd: Soft, NT, ND
   Ext: 2+ edema in upper and lower ext bl
   Neuro: Alert, follows commands, moves extrem
   Skin: Diffuse rash w/ desquamation
   Labs / Radiology
   418 K/uL
   8.9 g/dL
   129 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   27 mg/dL
   106 mEq/L
   138 mEq/L
   26.1 %
   21.1 K/uL
        [image002.jpg]
                             [**2122-3-18**]  01:39 PM
                             [**2122-3-18**]  06:58 PM
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
                             [**2122-3-19**]  04:57 AM
                             [**2122-3-20**]  04:47 AM
                             [**2122-3-21**]  03:52 AM
                             [**2122-3-21**]  04:08 AM
   WBC
   35.4
   21.3
   21.1
   Hct
   27.9
   26.5
   26.1
   Plt
   390
   372
   418
   Cr
   0.4
   0.2
   0.3
   0.3
   TropT
   0.16
   0.16
   TCO2
   39
   36
   33
   32
   31
   Glucose
   186
   155
   122
   129
   Other labs: PT / PTT / INR:16.4/56.4/1.5, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:225/148, Alk Phos / T Bili:352/17.8,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:655 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   #Encephalopathy:  LP with high RBC, thought to be SAH though not seen
   on CT.  Head CTA w/o aneurysm or vascular malformation.  Infectious
   etiology still possibility though LP less consistent w/ this.  Other
   etiology includes metabolic, potentially hepatic encephalopathy given
   hepatitis.
   -- Continue aciclovir, aztreonam, vancomycin, and tamiflu.  Vanc has
   some coverage for listeria (pt pcn allergic)
   -- F/u LP cultures (no growth so far), cytology, and PCR
   #Shock: Currently on levophed.  CVP 7. Can be distributive (adrenal
   insuff, sepsis), cardiogenic (preload dependence in pt with pulm htn
   and mass compressing LV)
   -- Taper steroids, started for adrenal insuff
   -- Infectious w/o outlined above
   -- Continue abx (acyclovir,aztreonam,vanc, tamiflu)
   #Acute Resp failure: Likely multifactorial, in the setting of
   restrictive lung disease, ?atypical pna, metabolic encephalopathy, and
   history of myasthenia [**Last Name (un) 3383**].
   -- Trial of SBT
   -- Will recheck NIF
   -- F/u BAL results
   #Heptatitis: Can be contributing to current picture.  LFTs stably
   elevated. US w/ patent portal/hepatic veins
   -- Continue to trend LFTs
   -- Holding diuretics
   # Rash: Drug related.
   -- Continue sarna
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF 14.  Will
   recheck NIF today.  Neuro is involved.
   # Malignant Thymoma: Per onc, no further treatment options
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   20 Gauge - [**2122-3-18**] 05:50 PM
   Prophylaxis:
   DVT: SQ UF heparin
   Stress ulcer:
   VAP:  HOB elevation, mouth care, daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2122-03-21 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-3-20**] 05:40 PM
   Fluconazole d/c'd
   Bronch - no masses, BAL sent
   Neuro rec CT head - report showed non-specific findings possibly c/w
   mets, sinus disease
   Remains on levophed
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Fluconazole - [**2122-3-19**] 08:45 PM
   Tamiflu - [**2122-3-20**] 08:00 PM
   Aztreonam - [**2122-3-21**] 01:40 AM
   Vancomycin - [**2122-3-21**] 08:05 AM
   Acyclovir - [**2122-3-21**] 09:21 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-21**] 12:00 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-21**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 89 (85 - 118) bpm
   BP: 111/60(79) {95/53(69) - 139/83(107)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  1,501 mL
                                                                    772 mL
   PO:
   TF:
   IVF:
                                                                  1,351 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    470 mL
   Urine:
                                                                  1,625 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -124 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
 off sedation, RR 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/54/105/28/3
   Ve: 5.4 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, arousable
   Eyes / Conjunctiva: PERRL, jaundiced
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: PPP
   Respiratory / Chest: crackles R>L
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Rash: improving
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   418 K/uL
   129 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.5 mEq/L
   27 mg/dL
   106 mEq/L
   138 mEq/L
   26.1 %
   21.1 K/uL
        [image002.jpg]
                             [**2122-3-18**]  01:39 PM
                             [**2122-3-18**]  06:58 PM
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
                             [**2122-3-19**]  04:57 AM
                             [**2122-3-20**]  04:47 AM
                             [**2122-3-21**]  03:52 AM
                             [**2122-3-21**]  04:08 AM
   WBC
   35.4
   21.3
   21.1
   Hct
   27.9
   26.5
   26.1
   Plt
   390
   372
   418
   Cr
   0.4
   0.2
   0.3
   0.3
   TropT
   0.16
   0.16
   TCO2
   39
   36
   33
   32
   31
   Glucose
   186
   155
   122
   129
   Other labs: PT / PTT / INR:16.4/56.4/1.5, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:225/148, Alk Phos / T Bili:352/17.8,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:655 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR reviewed
   Microbiology: BAL - no orgs, no pmns, cytology pending
   Assessment and Plan
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   46F met thymoma, pleural / peritoneal involvement, toxic hepatopathy
   p/w hypercarbic resp failure. Initial read of head CT concerning for
   cerebral edema. LP not c/w meningitis, await cytology. MRI s
   herniation.
   Acute resp failure
 trial of SBT, 7.35/54/105 on A/C, wean as
   tolerated, check NIF
   Respiratory failure likely multifactorial (restriction from mets,
   central drive issue, new RLL GGOs / pneumonia, toxic / metabolic
   encephalopathy, possible NM dz given MG and NIF -14)
   Shock/hypotension
 possible sepsis + adrenal insuff + PPV on vent +
   sedation + 3^rd spacing, wean levophed
   C/w broad spectrum abx as above
   Neuro status
 LP c/w hemorrhage, f/u HSV PCR, awake and follows
   commands, moves 4 extrem
   Myasthenia [**Last Name (un) **]
 off mestinon x 2 yrs
   Adrenal Insufficiency
hydrocort 50 q6h x 2 days, will decrease dose to
   HC 50 q8h
   Nutritional dysfunction
 start TFs
   Code status
 full per 2 hr family meeting
   ICU Care
   Nutrition: start TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   20 Gauge - [**2122-3-18**] 05:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-03-22 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2122-3-21**] 08:00 PM
   patient had arterial line place [**2122-3-20**]
   - final CTA read c/w SAH
   - BAL neg for influ, d/c'd tamiflu and flu precautions
   - ID signed off - do not think infectious etiology, recommended d/c
   vanc/cefepime, waited until morning to discuss
   - Reduced steroids 50iv q6 to q8
   - Weaned levophed down
   - PSV trial 17/5 put back on AC as RR dropped to 7
   - OG in stomach per KUB radiology read
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Fluconazole - [**2122-3-19**] 08:45 PM
   Tamiflu - [**2122-3-20**] 08:00 PM
   Vancomycin - [**2122-3-21**] 08:05 AM
   Acyclovir - [**2122-3-22**] 12:00 AM
   Aztreonam - [**2122-3-22**] 01:40 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-22**] 12:00 AM
   Midazolam (Versed) - [**2122-3-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-22**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 101 (74 - 118) bpm
   BP: 122/66(87) {79/49(62) - 148/104(124)} mmHg
   RR: 17 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 13 (8 - 13)mmHg
   Total In:
                                                                  1,472 mL
                                                                    554 mL
   PO:
   TF:
                                                                     73 mL
                                                                    126 mL
   IVF:
                                                                  1,218 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    390 mL
   Urine:
                                                                  1,260 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    212 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 418 (418 - 418) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 274
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 99%
   ABG: ///28/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   360 K/uL
   8.7 g/dL
   146 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.6 mEq/L
   28 mg/dL
   109 mEq/L
   143 mEq/L
   26.3 %
   21.8 K/uL
        [image002.jpg]
                             [**2122-3-18**]  01:39 PM
                             [**2122-3-18**]  06:58 PM
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
                             [**2122-3-19**]  04:57 AM
                             [**2122-3-20**]  04:47 AM
                             [**2122-3-21**]  03:52 AM
                             [**2122-3-21**]  04:08 AM
                             [**2122-3-22**]  05:11 AM
   WBC
   35.4
   21.3
   21.1
   21.8
   Hct
   27.9
   26.5
   26.1
   26.3
   Plt
   390
   372
   418
   360
   Cr
   0.4
   0.2
   0.3
   0.3
   0.3
   TropT
   0.16
   0.16
   TCO2
   39
   36
   33
   32
   31
   Glucose
   186
   155
   122
   129
   146
   Other labs: PT / PTT / INR:16.4/56.4/1.5, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:228/138, Alk Phos / T Bili:314/16.5,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:720 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   #Shock: Currently  levophed. Can be distributive: adrenal insuff w/ low
   cortisol, sepsis also possibility though blood cx, LP, BAL, and urine
   w/o growth.  Pt r/o for flu, tamiflu d/c'd. Cardiogenic (preload
   dependence in pt with pulm htn and mass compressing LV)
   -- Taper steroids, started for adrenal insuff
   -- F/u final BAL, CSF, Blood cx
   -- Can start tapering off abx as cx data unrevealing
   -- Cont acyclovir, HSV PCR pending
   .
   #Acute Resp failure: Patient tolerated PSV 17/5 briefly, placed back on
   volume control given low tidal volumes.  NIF unable to be assessed as
   she was too sedated.  Likely multifactorial, in the setting of
   restrictive lung disease, ?atypical pna, metabolic encephalopathy, and
   history of myasthenia [**Last Name (un) 3383**].
   -- Continue SBT trials, will attempt to recheck NIF today
   -- F/u BAL results
   .
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  LFTs
   stably elevated. US w/ patent portal/hepatic veins.
   -- Continue to trend LFTs
   -- Holding diuretics
   .
   # Rash: Drug related vs thymoma associated multiorgan autoimmunity (can
   see rise in LFTs, morbiliform rash, and GI involvement).  This
   autoimmune phenomenon has been reported in patients with extensive
   thymoma, pathophysiology resembles GVHD.
   -- Will discuss derm consult w/ possible skin biopsy
   .
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF 14.  Will
   recheck NIF today.  Neuro is involved.
   .
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.
   .
   # Thymoma:
   -- F/u CSF cytology
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-21**] 04:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   Arterial Line - [**2122-3-21**] 08:00 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-23 07:09:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 PICC LINE - START [**2122-3-22**] 03:08 PM
 MULTI LUMEN - STOP [**2122-3-22**] 05:36 PM
   -Power PICC placed and confirmed correct positioning.
   -Did not undergo PSV trial yesterday because was too somnolent.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Tamiflu - [**2122-3-20**] 08:00 PM
   Azithromycin - [**2122-3-22**] 01:00 PM
   Vancomycin - [**2122-3-22**] 08:25 PM
   Acyclovir - [**2122-3-23**] 12:56 AM
   Aztreonam - [**2122-3-23**] 02:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-22**] 08:16 AM
   Midazolam (Versed) - [**2122-3-22**] 09:00 AM
   Fentanyl - [**2122-3-22**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-23**] 12:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-23**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 91 (63 - 106) bpm
   BP: 125/69(91) {91/47(61) - 155/92(118)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  2,755 mL
                                                                    693 mL
   PO:
   TF:
                                                                    692 mL
                                                                    235 mL
   IVF:
                                                                  1,594 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  1,413 mL
                                                                    320 mL
   Urine:
                                                                  1,413 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,342 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 124
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/64/91.[**Numeric Identifier 96**]/29/6
   Ve: 5.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: Much more awake today. Jaundice, sclera icterus, cachexic middle
   aged woman in NAD
   CV: RR, holosystolic murmur, no RG
   Pulm: bibasilar crackles
   Abdom: soft, nt, nd
   Ext: +edema in UE/LE bl, significant LUE edema
   Neuro: Awake, opens eyes spont, +hand grip, reduced tone,
   Labs / Radiology
   345 K/uL
   8.9 g/dL
   169 mg/dL
   0.2 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   108 mEq/L
   144 mEq/L
   26.8 %
   23.3 K/uL
        [image002.jpg]
                             [**2122-3-19**]  01:06 AM
                             [**2122-3-19**]  02:13 AM
                             [**2122-3-19**]  04:39 AM
                             [**2122-3-19**]  04:57 AM
                             [**2122-3-20**]  04:47 AM
                             [**2122-3-21**]  03:52 AM
                             [**2122-3-21**]  04:08 AM
                             [**2122-3-22**]  05:11 AM
                             [**2122-3-23**]  04:54 AM
                             [**2122-3-23**]  04:59 AM
   WBC
   35.4
   21.3
   21.1
   21.8
   23.3
   Hct
   27.9
   26.5
   26.1
   26.3
   26.8
   Plt
   390
   372
   418
   360
   345
   Cr
   0.2
   0.3
   0.3
   0.3
   0.2
   TropT
   0.16
   TCO2
   36
   33
   32
   31
   37
   Glucose
   155
   122
   129
   146
   169
   Other labs: PT / PTT / INR:14.9/37.3/1.3, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:213/127, Alk Phos / T Bili:307/16.5,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:763 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: pH 7.35 pCO2 64 pO2 92 HCO3 37
   Assessment and Plan
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**First Name9 (NamePattern2) **] [**Last Name (un) **]
 LEFT UPPER EXTREMITY EDEMA
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis.
   #Shock: Has been weaned off levophed. Resolved at present. Likely
   multifactorial, likely combination of adrenal insuff w/ low cortisol,
   sepsis also possibility though blood cx, LP, BAL, and urine w/o
   growth.  Pt r/o for flu, tamiflu d/c'd. Cardiogenic less likely given
   normal EF, CVP of 10, and benign echo findings with nonhemodynamically
   significant LV mass.
   -- Cont to taper steroids
   -- F/u final BAL, CSF, Blood cx
   -- Can start tapering off abx as cx data unrevealing, but would start
   with acyclovir first
   -- First DC acyclovir once HSV confirmed negative, HSV PCR currently
   pending
   .
   #Acute Resp failure: Patient tolerated PSV 17/5 briefly, placed back on
   volume control given low tidal volumes.  NIF 21 and improved
   significantly.  Likely multifactorial, in the setting of restrictive
   lung disease, ?atypical pna, and history of myasthenia [**Last Name (un) 3383**].
   -- Continue SBT trials, restart propofol PRN agitation
   -- F/u BAL culture results
   # Acute LUE edema: Concern for DVT given metastatic malignancy.
   -LUE U/S to r/o DVT
   .
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  LFTs
   stably elevated. US w/ patent portal/hepatic veins.
   -- Continue to trend LFTs
   -- Holding diuretics
   .
   # Rash: Drug related vs thymoma associated multiorgan autoimmunity (can
   see rise in LFTs, morbiliform rash, and GI involvement).  This
   autoimmune phenomenon has been reported in patients with extensive
   thymoma, pathophysiology resembles GVHD.
   -- Derm consult w/ possible skin biopsy
   .
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF 14.  Will
   recheck NIF today.  Neuro is involved.
   .
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.
   - monitor Neurologic status
   .
   # Thymoma:
   -- F/u CSF cytology
 negative for malignant cells
   # Goals of care
   - Family meeting today at 2pm to discuss prognosis, preferences, and
   goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-21**] 04:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   Arterial Line - [**2122-3-21**] 08:00 PM
   R Power PICC
 [**2122-3-22**]
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-24 07:40:00 Physician Resident Progress Note
Chief Complaint:  SOB, hypoxemic respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2122-3-23**] 05:23 PM
   left arm
   [**2122-3-23**]
   -HSV still pending
   -Neuro: no need for AEDs, Q4 neuro checks, consider LP, recommend
   multipodus boots
   -Family meeting: DNR. No plan to terminally extubate. Can escalate
   care. No CPR or shocks
   -derm biopsied
   -will need suture removal in 2 wks
   -FiO2 increased to 50 for sats 91
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Azithromycin - [**2122-3-23**] 02:00 PM
   Vancomycin - [**2122-3-23**] 07:51 PM
   Acyclovir - [**2122-3-24**] 12:50 AM
   Aztreonam - [**2122-3-24**] 02:25 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-24**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-24**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 102 (90 - 118) bpm
   BP: 115/65(85) {91/55(68) - 130/82(102)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,751 mL
                                                                    673 mL
   PO:
             TF:
                                                                    841 mL
                                                                    263 mL
   IVF:
                                                                  1,640 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    590 mL
   Urine:
                                                                  1,450 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,301 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 220 (181 - 220) mL
   PC : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 111
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.44/56/94.[**Numeric Identifier 128**]/33/11
   NIF: -21 cmH2O
   Ve: 7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   276 K/uL
   8.9 g/dL
   154 mg/dL
   0.2 mg/dL
   33 mEq/L
   4.5 mEq/L
   24 mg/dL
   107 mEq/L
   146 mEq/L
   26.8 %
   32.9 K/uL
        [image002.jpg]
                             [**2122-3-20**]  04:47 AM
                             [**2122-3-21**]  03:52 AM
                             [**2122-3-21**]  04:08 AM
                             [**2122-3-22**]  05:11 AM
                             [**2122-3-23**]  04:54 AM
                             [**2122-3-23**]  04:59 AM
                             [**2122-3-23**]  05:31 PM
                             [**2122-3-23**]  08:57 PM
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
   WBC
   21.3
   21.1
   21.8
   23.3
   32.9
   Hct
   26.5
   26.1
   26.3
   26.8
   26.8
   Plt
   372
   418
   360
   345
   276
   Cr
   0.3
   0.3
   0.3
   0.2
   0.2
   TCO2
   31
   37
   36
   35
   39
   Glucose
   122
   129
   146
   169
   154
   Other labs: PT / PTT / INR:14.9/37.3/1.3, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:205/138, Alk Phos / T Bili:312/15.2,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:763 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.3 mg/dL
   Imaging: LUE U/S [**2122-3-24**]: No DVT
   Microbiology: BAL [**2122-3-20**]: NGTD, negative PCP negative fungal cx
   CSF [**2122-3-19**]: NGTD
   Blood cx [**2122-3-18**]
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis.
   #Shock: Resolved at present.
   -- Would consider increasing steroids as this may be treating pt
   underlying thymoma-related hypersensitivity syndrome (see below)
   -- F/u final BAL, CSF, Blood cx
   -- Can start tapering off abx as cx data unrevealing, but would start
   with acyclovir first
   -- First DC acyclovir once HSV confirmed negative, HSV PCR currently
   pending
   .
   #Acute Resp failure: Worsening, requiring more FiO2 yesterday. Likely
   multifactorial, in the setting of restrictive lung disease, ?atypical
   pna, and history of myasthenia [**Last Name (un) 3383**]. Would consider thymoma
   associated systemic hypersensitivity leading to bronchiolitis
   obliterans of the lungs.
   -- Would recommend increasing steroids and may see an improvement
   -- Continue SBT trials, restart propofol PRN agitation
   -- F/u BAL culture results
   # Acute LUE edema: No DVT on prelim
   -- F/u final U/S report.
   .
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  Consider
   widespread metastasis causing cholestasis  LFTs stably elevated. US w/
   patent portal/hepatic veins.
   -- Continue to trend LFTs
   -- Holding diuretics
   .
   # Rash: Drug related vs thymoma associated multiorgan autoimmunity (can
   see rise in LFTs, morbiliform rash, and GI involvement).  This
   autoimmune phenomenon has been reported in patients with extensive
   thymoma, pathophysiology resembles GVHD.
   -- Derm consult w/ possible skin biopsy
   .
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   .
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   .
   # Thymoma:
   -- F/u CSF cytology
 negative for malignant cells
   # Goals of care - Family meeting pt to be DNR but not DNI for now. Will
   reassess clinical status later in the week.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-21**] 04:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   Arterial Line - [**2122-3-21**] 08:00 PM
   R Power PICC
 [**2122-3-22**]
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-23**] 06:39 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR but not DNI
   Disposition:

2122-03-25 07:42:00 Physician Resident Progress Note
Chief Complaint: SOB, hypoxic respiratory failure
   24 Hour Events:
 SPUTUM CULTURE - At [**2122-3-24**] 12:18 PM
 BRONCHOSCOPY - At [**2122-3-24**] 03:34 PM
   [**2122-3-24**]
   - D/c'd azithro, added levo for double pseudomonal coverage
   - Gave lasix 10mg
   - Sputum culture GPCs/GPRs, random vanc level 17, are checking vanc
   trough with AM labs
   - HSV pending
   - BAL done, looked pus-like concerning for VAP prelim GPC
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Azithromycin - [**2122-3-23**] 02:00 PM
   Levofloxacin - [**2122-3-24**] 12:07 PM
   Vancomycin - [**2122-3-24**] 07:50 PM
   Acyclovir - [**2122-3-25**] 12:17 AM
   Aztreonam - [**2122-3-25**] 02:16 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-24**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-25**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: [**4-16**] Mild
   Pain location: Neck
   Flowsheet Data as of  [**2122-3-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 96 (89 - 120) bpm
   BP: 104/61(77) {87/51(64) - 150/88(112)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,510 mL
                                                                    535 mL
   PO:
             TF:
                                                                    841 mL
                                                                    267 mL
   IVF:
                                                                  1,315 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    435 mL
   Urine:
                                                                  2,355 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: T-piece, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 418 (352 - 418) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash: , Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.0 g/dL
   168 mg/dL
   0.2 mg/dL
   35 mEq/L
   4.3 mEq/L
   26 mg/dL
   104 mEq/L
   142 mEq/L
   27.6 %
   40.8 K/uL
        [image002.jpg]
                             [**2122-3-21**]  04:08 AM
                             [**2122-3-22**]  05:11 AM
                             [**2122-3-23**]  04:54 AM
                             [**2122-3-23**]  04:59 AM
                             [**2122-3-23**]  05:31 PM
                             [**2122-3-23**]  08:57 PM
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
   WBC
   21.8
   23.3
   32.9
   40.8
   Hct
   26.3
   26.8
   26.8
   27.6
   Plt
   [**Telephone/Fax (3) 11570**]20
   Cr
   0.3
   0.2
   0.2
   0.3
   0.2
   TCO2
   31
   37
   36
   35
   39
   Glucose
   146
   169
   154
   138
   168
   Other labs: PT / PTT / INR:14.6/36.9/1.3, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:177/127, Alk Phos / T Bili:314/14.5,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:763 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.1 mg/dLA
   Imaging: AP [**2122-3-24**]:
   FINDINGS: As compared to the previous examination, the leftsided
   changes and
   the left basal lung changes show constant morphology. In the right
   lung,
   there is no relevant change. An apparent increase in density at the
   right
   lung base is caused by an overlying medical device. Unchanged size and
   shape
   of the cardiac silhouette.
   Microbiology: [**2122-3-24**] sputum and BAL x 2 with GPCs in clusters and
   pairs.
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis.
   #Shock: Resolved at present.
   -- Continue steroids at present dose
   -- F/u final BAL, CSF, Blood cx
   -- Can start tapering off abx as cx data unrevealing, but would start
   with acyclovir first
   -- First DC acyclovir once HSV confirmed negative, HSV PCR currently
   pending
   .
   #Acute Resp failure: Pt with VAP. Likely multifactorial, in the setting
   of restrictive lung disease, ?atypical pna, and history of myasthenia
   [**Last Name (un) 3383**]. Would consider thymoma associated systemic hypersensitivity
   leading to bronchiolitis obliterans of the lungs.
   -- Continue current steroid dose
   -- Call path to expedite skin biopsy to confirm hypersensitivity
   syndrome, if negative would taper off steroids
   -- Continue SBT trials, restart propofol PRN agitation
   -- F/u BAL culture results
   # Acute LUE edema: No DVT on prelim
   -- F/u final U/S report.
   .
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  Consider
   widespread metastasis causing cholestasis  LFTs stably elevated. US w/
   patent portal/hepatic veins.
   -- Continue to trend LFTs
   -- Holding diuretics
   .
   # Rash: Drug related vs thymoma associated multiorgan autoimmunity (can
   see rise in LFTs, morbiliform rash, and GI involvement).  This
   autoimmune phenomenon has been reported in patients with extensive
   thymoma, pathophysiology resembles GVHD.
   -- F/u skin biopsy
   .
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   .
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   .
   # Thymoma:
   -- F/u CSF cytology
 negative for malignant cells
   # Goals of care - Family meeting pt to be DNR but not DNI for now. Will
   reassess clinical status later in the week.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-21**] 04:40 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-3-18**] 05:44 PM
   Arterial Line - [**2122-3-21**] 08:00 PM
   R Power PICC
 [**2122-3-22**]
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-23**] 06:39 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR but not DNI
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 46F met thymoma, pleural / peritoneal
   involvement, toxic hepatopathy p/w hypercarbic resp failure. Developed
   asynchrony and desats yesterday x2.
   Exam notable for Tm 99.4 BP 118/69 HR 95 RR 20 with sat 100 on VAC 0.5
   7.44/56/94. Opens eyes, follows commands, pupils responsive B.
   Hyperdynamic RRR s1s2s3 3/6SM. Coarse BS B. Soft +BS. 2+ edema, rash.
   Labs notable for WBC 32K from 23K, HCT 26, K+ 4.5, Cr 0.2. CXR stable.
   Agree with plan to manage multifactorial respiratory failure
   (restriction from mets, central drive issue, pneumonia, weakness, fluid
   overload) with trial of PSV, sedation c propofol and low dose fentanyl.
   Will check sputum / BAL, treat for new VAP by changing azithro to
   cipro, and initiate diuresis for component of volume overload. CT c/w
   SAH, exam stable / improving - hold off on AEDs, stop acyclovir if HSV
   PCR is negative. Toxic hepatopathy - stable, continue ursidiol, liver
   following, ? thymoma-associated autoimmune syndrome - continue steroids
   at current dose and d/w liver team. MG - stable. Await derm bx results,
   ? autoimmune v drug v fungal. TFs, PICC, art line, HSC, H2B. Patient is
   DNR (no shock / CPR, pressors OK). Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 33**], MD
   on:[**2122-3-24**] 03:16 PM ------
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-24**] 11:10 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-26 06:58:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, thymoma
   24 Hour Events:
   - DC'd vanc, aztreo, levo, acyclo
   - Started linezolid
   - Derm says prelim path c/w thymoma related hypersensitivity syndrome
   - Family meeting: Plan is for family to ask the pt directly what her
   wishes are and reassess on Friday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Azithromycin - [**2122-3-23**] 02:00 PM
   Levofloxacin - [**2122-3-24**] 12:07 PM
   Vancomycin - [**2122-3-24**] 07:50 PM
   Aztreonam - [**2122-3-25**] 02:16 AM
   Acyclovir - [**2122-3-25**] 08:00 AM
   Linezolid - [**2122-3-26**] 12:13 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-26**] 12:13 AM
   Furosemide (Lasix) - [**2122-3-26**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Integumentary (skin): Rash
   Flowsheet Data as of  [**2122-3-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 86 (80 - 115) bpm
   BP: 103/60(76) {92/52(65) - 154/95(118)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  1,522 mL
                                                                    346 mL
   PO:
             TF:
                                                                    840 mL
                                                                    240 mL
   IVF:
                                                                    622 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    635 mL
   Urine:
                                                                  1,755 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -233 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 180 (180 - 608) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.50/48/121/38/12
   Ve: 5.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Rash, jaundice
   Neurologic: Responds to: Verbal Stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   8.5 g/dL
   145 mg/dL
   0.3 mg/dL
   38 mEq/L
   3.7 mEq/L
   32 mg/dL
   103 mEq/L
   144 mEq/L
   26.0 %
   33.9 K/uL
        [image002.jpg]
                             [**2122-3-23**]  04:54 AM
                             [**2122-3-23**]  04:59 AM
                             [**2122-3-23**]  05:31 PM
                             [**2122-3-23**]  08:57 PM
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
   WBC
   23.3
   32.9
   40.8
   33.9
   Hct
   26.8
   26.8
   27.6
   26.0
   Plt
   [**Telephone/Fax (3) 11577**]74
   Cr
   0.2
   0.2
   0.3
   0.2
   0.3
   TCO2
   37
   36
   35
   39
   39
   Glucose
   169
   154
   138
   168
   145
   Other labs:
   PT / PTT / INR:14.6/36.9/1.3, ALT / AST:149/114, Alk Phos / T
   Bili:310/13.5, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   WBC trending down
   Bicarb trending up
   LFTs, bili trending down
   Microbiology:
[**2122-3-24**] 3:47 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2122-3-24**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora.
      STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   .
   #Acute Resp failure: Pt now with VAP with GPCs likely VISA vs MRSA.
   However resp failure likely multifactorial, in the setting of VAP
   restrictive lung disease, and history of myasthenia [**Last Name (un) 3383**] and muscle
   weakness. Would consider thymoma associated systemic hypersensitivity
   leading to bronchiolitis obliterans of the lungs. Given this developed
   while on presumably therapeutic vanc (trough this am 15) high concern
   for VISA
   -- Narrowing coverage with starting IV linezolid for VAP to cover VISA
   and DC aztreonam, vancomycin
   -- Continue current steroid dose
   -- Call path to expedite skin biopsy to confirm hypersensitivity
   syndrome, if negative would taper off steroids
   -- Continue SBT trials, continue propofol PRN agitation
   -- F/u BAL culture speciation and sensitivities
   .
   #Shock: Resolved at present.
   -- Continue steroids at present dose
   -- F/u final BAL, CSF, Blood cx
   -- Can taper off all abx and start linezolid (per above)
   -- DC acyclovir as HSV confirmed negative
   .
   # Acute LUE edema: No DVT on prelim
   -- F/u final U/S report.
   .
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  Consider
   widespread metastasis causing cholestasis  LFTs stably elevated. US w/
   patent portal/hepatic veins.
   -- Continue to trend LFTs
   -- Holding diuretics
   .
   # Rash: Drug related vs thymoma associated multiorgan autoimmunity (can
   see rise in LFTs, morbiliform rash, and GI involvement).  This
   autoimmune phenomenon has been reported in patients with extensive
   thymoma, pathophysiology resembles GVHD.
   -- F/u skin biopsy
   .
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   .
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   .
   # Thymoma: No active issues.
   -- F/u CSF cytology
 negative for malignant cells
   # Goals of care
 Pt now desiring terminal extubation. Family meeting
   pt today at 3pm to discuss goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-25**] 02:49 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate) (no shock / CPR, pressors OK)
   Disposition:ICU

2122-03-27 07:17:00 Physician Resident Progress Note
Chief Complaint: thymoma, respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2122-3-26**] 05:29 PM
 FEVER - 101.1
F - [**2122-3-26**] 05:00 PM
   - Growing MRSA from lungs (sensitive to Gent, Rif, Tetra, Vanco).
   - Family meeting today
   - No new Derm recs.  No new Neuro recs.
   - hypotensive to 70s overnight. somewhat responsive to 2L NS
   -ordered norepi but MAP stable at 60 so not given. Also concern from
   pharm re interaction with linezolid
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Levofloxacin - [**2122-3-24**] 12:07 PM
   Vancomycin - [**2122-3-24**] 07:50 PM
   Aztreonam - [**2122-3-25**] 02:16 AM
   Acyclovir - [**2122-3-25**] 08:00 AM
   Linezolid - [**2122-3-26**] 12:42 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2122-3-26**] 09:50 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-26**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Flowsheet Data as of  [**2122-3-27**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 35.4
C (95.8
   HR: 62 (59 - 111) bpm
   BP: 93/50(64) {74/42(52) - 134/79(101)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  1,977 mL
                                                                  2,044 mL
   PO:
             TF:
                                                                    841 mL
                                                                    250 mL
   IVF:
                                                                    886 mL
                                                                  1,694 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    170 mL
   Urine:
                                                                  1,160 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    817 mL
                                                                  1,874 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 354 (354 - 354) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 290
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 27.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/45/125/35/12
   Ve: 5.4 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Rash, jaundice
   Neurologic: Responds to: Verbal Stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   149 K/uL
   8.0 g/dL
   167 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.0 mEq/L
   40 mg/dL
   106 mEq/L
   145 mEq/L
   23.8 %
   22.9 K/uL
        [image002.jpg]
                             [**2122-3-23**]  05:31 PM
                             [**2122-3-23**]  08:57 PM
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
   WBC
   32.9
   40.8
   33.9
   22.9
   Hct
   26.8
   27.6
   26.0
   23.8
   Plt
   [**Telephone/Fax (3) 11585**]49
   Cr
   0.2
   0.3
   0.2
   0.3
   0.4
   TCO2
   36
   35
   39
   39
   38
   Glucose
   154
   138
   168
   145
   167
   Other labs:
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Microbiology:
[**2122-3-24**] 3:47 pm BRONCHOALVEOLAR LAVAGE
   RESPIRATORY CULTURE (Final [**2122-3-26**]):
      10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora.
      STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   # Respiratory failure:
   Multifactorial and now with MRSA VAP.  WBC trended down but clinically
   appears significantly worse and has been more dependent on ventilator
   support.  Appears uncomfortable. Unlikely to improve despite
   antibiotics and steroids.
   - address goals of care
   - cont linezolid and steroids
   # Hypotension
   Now stable.  Small response to IVF. Okay to start pressors for now.
   # Primary metabolic alkalosis
   Bicarb 35, pH 7.5. [**Month (only) 60**] have improved with NS boluses.
   --monitor
   --could consider diamox if worsens
   # Acute LUE edema: No DVT.
   - monitor
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  US w/
   patent portal/hepatic veins.
   -- LFTs trending down
points toward hypersensitivity as improving with
   steroids, perhaps
   -- monitor
   # Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   -- supportive care
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   # Thymoma: No active issues.
   # Goals of care
 Pt to be discussed today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-26**] 07:21 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: (no shock or CPR but escalation and pressors OK)
   Disposition:ICU

2122-03-28 08:22:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  46 y o lady with metastatic thymoma, adm with resp failure, now
   with new VAP and failure to wean from vent
   24 Hour Events:
   1. Sputum cx with [** 969**], continued on linezolid given PCN allergy
   2. Family meeting re: GOC held yesterday, decision is to continue max
   supportive care for now until middle of next week given Chinese new
   year and holiday week, then readdress terminal extubation and CMO
   3. Back on levophed o/n with increasing propofol dosing
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-3-26**] 12:42 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-28**] 01:19 AM
   Other medications:
   Colace
   ISS
   Hydrocort 60 IV Q12 Hours
   Linezolid 600 PO Q12
   Heparin
   Fentanyl patch
   Ursodiol
   [**Doctor First Name 1116**]
   Famotidine
   Calcium carbonate + D
   Cyanocobalamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, unable to obtain rest
   Flowsheet Data as of  [**2122-3-28**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 85 (56 - 85) bpm
   BP: 112/65(82) {83/47(62) - 112/65(82)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  3,291 mL
                                                                    817 mL
   PO:
             TF:
                                                                    886 mL
                                                                    376 mL
   IVF:
                                                                  2,005 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                    553 mL
                                                                    360 mL
   Urine:
                                                                    553 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,738 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 336 (285 - 336) mL
   PS : 15 cmH2O
   RR (Set): 270
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 4.4 L/min
   Physical Examination
   Gen: intubated, sedated, responds to questions, denies pain
   Chest: rales R side, bronchial L base
   CV: RRR, + S3, loud P2
   Abd: soft, slightly distended, no TTP, hypoactive BSs
   Extr: warm, 1+ edema
   Skin: stable desquamating rash
   Labs / Radiology
   9.2 g/dL
   159 K/uL
   172 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   44 mg/dL
   104 mEq/L
   141 mEq/L
   27.8 %
   22.3 K/uL
        [image002.jpg]
                             [**2122-3-23**]  08:57 PM
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
   WBC
   32.9
   40.8
   33.9
   22.9
   22.3
   Hct
   26.8
   27.6
   26.0
   23.8
   27.8
   Plt
   [**Telephone/Fax (3) 11585**]49
   159
   Cr
   0.2
   0.3
   0.2
   0.3
   0.4
   0.4
   TCO2
   35
   39
   39
   38
   Glucose
   154
   138
   168
   145
   167
   172
   Other labs: PT / PTT / INR:12.9/36.8/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:149/114, Alk Phos / T Bili:310/13.5,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:763 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Micro: [**3-24**] BAL with MRSA, sputum [**3-24**] with [**Month/Day (4) 969**]
   Assessment and Plan
   46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for worsening
   shortness of breath, intubated, and worsening hepatitis now with VAP.
   1. Respiratory failure: multifactorial and now with MRSA and [**Hospital Unit Name 969**] VAP.
   WBC stable since yesterday.  Now on AC as low VTs on PSV.
   -          continue linezolid
   -          d/w ID re: ?adding Nafcilling for [**Last Name (LF) 969**], [**First Name3 (LF) 178**] require
   desensitization
   2.  Hypotension:  now back on levophed at low dose, likely [**3-17**]
   increasing propofol dose.  Treating VAP as above.
   3. Heptatitis: Drug induced vs thymoma associated multiorgan
   autoimmunity (can see rise in LFTs, morbiliform rash, and GI
   involvement).  US w/ patent portal/hepatic veins.
   - monitor LFTs
   4.  Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   - saran lotion, add bendaryl prn itching
   5.  Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   6. SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   7. Goals of care
 per family meeting yesterday, full go until middle
   of next week to attempt to get the patient through the Chinese new year
   holiday.  Then, will readdress terminal extubation and CMO.  Remains
   DNR.
   ICU Care
   Nutrition:  TFs
   Nutren Pulmonary (Full) - [**2122-3-27**] 10:55 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: H2 blocker
   VAP: chlorhexidine
   Communication: with patient and family
   Code status: Full code
   Disposition: ICU
   Total time spent: 30 min CCT

2122-03-28 08:32:00 Physician Resident Progress Note
Chief Complaint: CHIEF COMPLAINT: SOB , hypoxemic respiratory failure
   24 Hour Events:
   [**2122-3-27**]
   - Family meeting wanted to keep pt intubated through new years (next
   wednesday) agree w/ extubation at that time if all the same
   - Suctioned for thick yellow secretions
   - VAP: kept linezolid (though sensitive to oxacillin)
   - Started fentanyl patch
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-3-26**] 12:42 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-28**] 01:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-28**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 85 (56 - 85) bpm
   BP: 112/65(82) {83/47(62) - 112/65(82)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  3,291 mL
                                                                    828 mL
   PO:
             TF:
                                                                    886 mL
                                                                    384 mL
   IVF:
                                                                  2,005 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    553 mL
                                                                    360 mL
   Urine:
                                                                    553 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,738 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 336 (285 - 336) mL
   PS : 15 cmH2O
   RR (Set): 270
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 4.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   159 K/uL
   9.2 g/dL
   172 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.4 mEq/L
   44 mg/dL
   104 mEq/L
   141 mEq/L
   27.8 %
   22.3 K/uL
        [image002.jpg]
                             [**2122-3-23**]  08:57 PM
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
   WBC
   32.9
   40.8
   33.9
   22.9
   22.3
   Hct
   26.8
   27.6
   26.0
   23.8
   27.8
   Plt
   [**Telephone/Fax (3) 11585**]49
   159
   Cr
   0.2
   0.3
   0.2
   0.3
   0.4
   0.4
   TCO2
   35
   39
   39
   38
   Glucose
   154
   138
   168
   145
   167
   172
   Other labs: PT / PTT / INR:12.9/36.8/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:149/114, Alk Phos / T Bili:310/13.5,
   Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:763 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Microbiology: GRAM STAIN (Final [**2122-3-24**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Final [**2122-3-26**]):
         10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora.
         STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML..
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations
   Rifampin
            should not be used alone for therapy.
            This isolate is presumed to be resistant to clindamycin based
   on
            the detection of inducible resistance .
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   CLINDAMYCIN-----------       R
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------ <=0.5 S
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-27**] 10:55 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   # Respiratory failure:
   Multifactorial and now with MRSA VAP.  WBC trended down but clinically
   appears significantly worse and has been more dependent on ventilator
   support.  Appears uncomfortable. Unlikely to improve despite
   antibiotics and steroids.
   - address goals of care
   - cont linezolid and steroids
   # Hypotension
   Now stable.  Small response to IVF. Okay to start pressors for now.
   # Primary metabolic alkalosis
   Bicarb 35, pH 7.5. [**Month (only) 60**] have improved with NS boluses.
   --monitor
   --could consider diamox if worsens
   # Acute LUE edema: No DVT.
   - monitor
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  US w/
   patent portal/hepatic veins.
   -- LFTs trending down
points toward hypersensitivity as improving with
   steroids, perhaps
   -- monitor
   # Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   -- supportive care
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   # Thymoma: No active issues.
   # Goals of care
 Pt to be discussed today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-26**] 07:21 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: (no shock or CPR but escalation and pressors OK)
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 46F met thymoma, pleural / peritoneal
   involvement, toxic hepatopathy p/w hypercarbic resp failure. Skin bx is
   c/w thymoma-associated multiorgan autoimmunity. Febrile to 101.1,
   sputum +MRSA, requiring IVF for low BPs.
   Exam notable for Tm 101.1 BP 104/50 HR 68 RR 20 with sat 100 on PSV 5/5
   0.5 7.52/45/125. Opens eyes, follows commands, pupils responsive B.
   Hyperdynamic RRR s1s2s3 3/6SM, unchanged. Coarse BS B. Soft +BS. 2+
   edema, rash. Labs notable for WBC 22K, HCT 23, K+ 4.0, Cr 0.4. R mid
   lung infiltrate.
   Agree with plan to manage multifactorial respiratory failure
   (restriction from mets, MRSA VAP, weakness, fluid overload) with PSV,
   sedation c propofol and low dose fentanyl patch. Will treat MRSA VAP
   with linezolid montherapy. Appears worse overall, febrile, borderline
   BP, unable to remove fluid. Toxic hepatopathy - stable, continue
   steroids for thymoma-associated autoimmune syndrome. TFs, PICC, art
   line, HSC, H2B. Patient is DNR (no shock / CPR, pressors OK); will
   speak with family today re goals of care. Remainder of plan as outlined
   above.
   ADDENDUM
 Family meeting via translator with patient
s husband, two
   brothers, sister-in-law and patient advocate x90 minutes. Multiple team
   members including SW present. Care reviewed in detail, including her
   worsening in terms of fever and lower BP today. Overall course and
   prognosis discussed in detail. Family expressed good understanding
   w/r/t the relentlessly progressive nature of her malignancy and the
   severity of her pneumonia. They all endorsed a desire to support her
   for a few more days to allow family to gather and to also allow her to
   live into the next Chinese New Year. It is clearly important for
   cultural reasons to work to honor this request. Assuming she can be
   supported until Thursday, we will then plan for terminal extubation.
   All aspects of this decision reviewed in detail, husband and brother
   were unanimous in their agreement with this plan of care.
   Patient is critically ill
   Total time: 120 min

2122-03-29 07:40:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - Pt grew MSSA in sputum and MRSA in bronch, linezolid continued, ID
   says not worth doing naficillin desensitization protocol
   - Pt needed to be placed from PSV to AC
   - Intensified bowel reg for constipation
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-3-26**] 12:42 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-29**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Integumentary (skin): Jaundice, Rash
   Flowsheet Data as of  [**2122-3-29**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 70 (58 - 87) bpm
   BP: 127/76(95) {80/44(57) - 135/84(105)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  1,929 mL
                                                                    722 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    343 mL
   IVF:
                                                                    388 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    190 mL
   Urine:
                                                                    805 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,124 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 255 (255 - 333) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 134
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: ///33/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Rash, jaundice
   Neurologic: Responds to: Verbal Stimuli
   Labs / Radiology
   162 K/uL
   9.2 g/dL
   166 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.5 mEq/L
   47 mg/dL
   105 mEq/L
   143 mEq/L
   27.5 %
   20.2 K/uL
        [image002.jpg]
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
   WBC
   32.9
   40.8
   33.9
   22.9
   22.3
   20.2
   Hct
   26.8
   27.6
   26.0
   23.8
   27.8
   27.5
   Plt
   [**Telephone/Fax (3) 11585**]49
   159
   162
   Cr
   0.2
   0.3
   0.2
   0.3
   0.4
   0.4
   0.3
   TCO2
   39
   39
   38
   Glucose
   154
   138
   168
   145
   167
   172
   166
   Other labs: PT / PTT / INR:12.9/35.2/1.1, ALT / AST:141/105, Alk Phos /
   T Bili:286/12.6, Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %,
   Eos:0.1 %, Albumin:2.3 g/dL, LDH:716 IU/L, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: WBC, LFTs continue to rend down
   Microbiology: no new culture data
   Assessment and Plan
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   # Respiratory failure:
   Multifactorial and now with MRSA VAP.  Sputum grows MSSA and bronch
   grows MRSA. Pt continues  clinically significantly worse and has been
   more dependent on ventilator support. Now switched to AC and appears
   comfortable. Unlikely to improve despite antibiotics and steroids.
   - Curbside ID whether worth nafcillin desensitization to cover MSSA
   - address goals of care
   - cont linezolid and steroids
   # Hypotension
 again multfactorial, possibly related to VAP leading to
   sepsis, possibly secondary to low albumin/oncotic pressure.
   Now stable.  Small response to IVF. Okay to start pressors for now.
   # Primary metabolic alkalosis
   Bicarb 35, pH 7.5. [**Month (only) 60**] have improved with NS boluses.
   --monitor
   --could consider diamox if worsens
   # Acute LUE edema: No DVT.
   - monitor
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  US w/
   patent portal/hepatic veins.
   -- LFTs trending down
points toward hypersensitivity as improving with
   steroids, perhaps
   -- monitor
   # Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   -- supportive care
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   # Thymoma: No active issues.
   # Goals of care
 decision is to continue max supportive care for now
   until middle of next week given Chinese new year and holiday week, then
   readdress terminal extubation and CMO
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-26**] 07:21 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: (no shock or CPR but escalation and pressors OK)
   Disposition:ICU

2122-03-29 07:55:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Levophed off this AM, on/off o/n
   Remains on Linezolid for staph in sputum
   Now on PSV
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-3-26**] 12:42 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-29**] 12:30 AM
   Other medications:
   Colace
   ISS
   Hydrocortisone 50 [**Hospital1 **]
   Linezolid 600 [**Hospital1 **]
   Fentanyl patch
   Heparin SC
   [**Doctor First Name 1116**]
   Famotidine
   Singulair
   Vitamin B12, D
   Chlorhexidine
   Benadryl PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-29**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 71 (58 - 87) bpm
   BP: 120/70(89) {80/44(57) - 135/84(105)} mmHg
   RR: 17 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  1,929 mL
                                                                    740 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    356 mL
   IVF:
                                                                    388 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    190 mL
   Urine:
                                                                    805 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,124 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 255 (255 - 333) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 134
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: ///33/
   Ve: 5.3 L/min
   Physical Examination
   Gen: intubated, sedated, opens eyes and shakes head
 to ? of pain
   Chest:  rales L > R base
   CV: tachy, regular, + S3
   Abd: soft, distended, + BS
   Extr: warm, 1+ edema
   Skin: stable desquamating rash
   Labs / Radiology
   9.2 g/dL
   162 K/uL
   166 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.5 mEq/L
   47 mg/dL
   105 mEq/L
   143 mEq/L
   27.5 %
   20.2 K/uL
        [image002.jpg]
                             [**2122-3-24**]  05:15 AM
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
   WBC
   32.9
   40.8
   33.9
   22.9
   22.3
   20.2
   Hct
   26.8
   27.6
   26.0
   23.8
   27.8
   27.5
   Plt
   [**Telephone/Fax (3) 11585**]49
   159
   162
   Cr
   0.2
   0.3
   0.2
   0.3
   0.4
   0.4
   0.3
   TCO2
   39
   39
   38
   Glucose
   154
   138
   168
   145
   167
   172
   166
   Other labs: PT / PTT / INR:12.9/35.2/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:141/105, Alk Phos / T Bili:286/12.6,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:716 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Micro: no new data
   Assessment and Plan
   46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for worsening
   shortness of breath, intubated, and worsening hepatitis now with VAP.
   1. Respiratory failure: multifactorial and now with MRSA and MSSA VAP.
   WBC slowly coming down. Tolerating PSV again today.
   - continue linezolid for MSSA in sputum and MRSA in BAL
   2.  Hypotension:  now off levohed; was on low-dose yeterday, likely [**3-17**]
   increasing propofol dose.  Treating VAP as above.
   3. Heptatitis: Drug induced vs thymoma associated multiorgan
   autoimmunity (can see rise in LFTs, morbiliform rash, and GI
   involvement).  US w/ patent portal/hepatic veins. LFTs trending down
   slowly.
   - monitor LFTs
   4.  Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   - sarna lotion, bendaryl prn itching
   - add clobetasol cream
   5.  Myasthenia [**Last Name (un) **]: per neuro, has been in remission.
   6. SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   7. Goals of care
 per family meeting Friday, full go until middle of
   next week to attempt to get the patient through the Chinese new year
   holiday.  Then, will readdress terminal extubation and CMO.  Remains
   DNR.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-28**] 08:36 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  H2 blocker
   VAP: chlorhexidine
   Communication: with patient and family
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 min CCT

2122-03-30 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No new events
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-30**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-30**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 78 (69 - 93) bpm
   BP: 121/74(92) {92/54(67) - 160/115(132)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  1,993 mL
                                                                    671 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    343 mL
   IVF:
                                                                    392 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    280 mL
   Urine:
                                                                    665 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,328 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 323 (323 - 323) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 153
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   9.4 g/dL
   155 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.7 mEq/L
   46 mg/dL
   104 mEq/L
   142 mEq/L
   28.6 %
   23.6 K/uL
        [image002.jpg]
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   Plt
   220
   174
   149
   159
   162
   173
   Cr
   0.3
   0.2
   0.3
   0.4
   0.4
   0.3
   TCO2
   39
   39
   38
   Glucose
   138
   168
   145
   167
   172
   166
   155
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:144/96, Alk Phos / T Bili:293/12.9,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   # Respiratory failure: Multifactorial and now with MRSA VAP.  Sputum
   grows MSSA and bronch grows MRSA. Unlikely to improve despite
   antibiotics and steroids.
   - cont linezolid and steroids
   # Constipation: Unknown last bm
   --bowel regimen
   # Hypotension: again multfactorial, possibly related to VAP leading to
   sepsis, possibly secondary to low albumin/oncotic pressure.  Levophed
   for MAP <60 (has been on and off).
   # Acute LUE edema: No DVT.
   - monitor
   #Heptatitis: Drug induced vs thymoma associated multiorgan autoimmunity
   (can see rise in LFTs, morbiliform rash, and GI involvement).  US w/
   patent portal/hepatic veins.
   -- LFTs trending down
points toward hypersensitivity as improving with
   steroids, perhaps
   -- monitor
   # Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   -- supportive care, added clobetasol cream
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   # Thymoma: No active issues.
   # Goals of care
 decision is to continue max supportive care for now
   until middle of next week given Chinese new year and holiday week, then
   readdress terminal extubation and CMO
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-29**] 06:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-30 08:24:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lots of family and friends visited
   Remains intubated
   Off pressors
   History obtained from Patient
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-30**] 12:23 AM
   Other medications:
   Colace
   ISS
   Hydrocort 50 Q12
   Linezolid
   Fentanyl patch
   Lactulose TID
   Clobetasol cream
   Ursodiol
   [**Doctor First Name 1116**]
   Tums
   Vitamin B12, D
   Senna
   Chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: reports being comfortable, having BMs today s/p
   increasing bowel regimen yesterday
   Flowsheet Data as of  [**2122-3-30**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 78 (69 - 93) bpm
   BP: 121/74(92) {92/54(67) - 160/115(132)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  1,993 mL
                                                                    720 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    378 mL
   IVF:
                                                                    392 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    280 mL
   Urine:
                                                                    665 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,328 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 323 (323 - 323) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 153
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 5.6 L/min
   Physical Examination
   Gen: intubated, sedated, denies pain
   Chest: rales R > L base
   CV: RRR, intermittent S3 gallop, no rub
   Abd: soft, distended, + BS
   Extr: warm, 1+ edema
   Skin: stable desquamating rash over extrs and trunk
   Labs / Radiology
   9.4 g/dL
   173 K/uL
   155 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.7 mEq/L
   46 mg/dL
   104 mEq/L
   142 mEq/L
   28.6 %
   23.6 K/uL
        [image002.jpg]
                             [**2122-3-24**]  05:21 AM
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   Plt
   220
   174
   149
   159
   162
   173
   Cr
   0.3
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   TCO2
   39
   39
   38
   Glucose
   138
   168
   145
   167
   172
   166
   155
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:144/96, Alk Phos / T Bili:293/12.9,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Micro:
   Blood cxs [**3-26**]: NGTD
   No new imaging
   Assessment and Plan
   46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for worsening
   shortness of breath, intubated, and worsening hepatitis now with VAP.
   1. Respiratory failure: multifactorial and now with MRSA and MSSA VAP.
   WBC slowly coming down. Tolerating PSV again today.
   - continue linezolid for MSSA in sputum and MRSA in BAL
   2.  Hypotension:  now off levohed; was on low-dose on Sat likely [**3-17**]
   increasing propofol dose.  Treating VAP as above.
   3. Heptatitis: Drug induced vs thymoma associated multiorgan
   autoimmunity (can see rise in LFTs, morbiliform rash, and GI
   involvement).  US w/ patent portal/hepatic veins. Bilis trending down
   slowly.
   - monitor LFTs
   4.  Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   - sarna lotion, bendaryl prn itching, clobetasol cream
   5.  Myasthenia [**Last Name (un) **]: per neuro, has been in remission.
   6. SAH:  CTA head demonstrates obliteration of the left frontal sulci
   w/ high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   7. Goals of care
 per family meeting Friday, full go until middle of
   next week to attempt to get the patient through the Chinese new year
   holiday (middle of this week).  Then, will readdress terminal
   extubation and CMO.  Remains DNR.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2122-3-29**] 06:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  Famotidine
   Communication:  with patient and family
   Code status: DNR
   Disposition: ICU
   Total time spent: 35 min CCT

2122-03-31 07:18:00 Physician Resident Progress Note
Chief Complaint: CHIEF COMPLAINT: SOB
   24 Hour Events:
   [**3-30**]
   - continuous diarrhea, bowel regimen made prn, nurses asked to put
   flexiseal
   - disimpacted
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-3-30**] 12:00 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-3-30**] 08:00 AM
   Fentanyl - [**2122-3-30**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-30**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.4
   HR: 87 (76 - 93) bpm
   BP: 116/69(87) {112/64(82) - 138/84(105)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,086 mL
                                                                    710 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    328 mL
   IVF:
                                                                    406 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    685 mL
   Urine:
                                                                    785 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,301 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 157
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 5.7 L/min
   Physical Examination
   GEN: Alert, responds to questions appropriately, follows commands, NAD,
   jaundiced, desquamative rash
   CV: RRR, SM no RG
   PULM: CTAB anteriorly
   ABD: Soft, NTND, +BS
   EXT: 2+ edema, anasarca
   Labs / Radiology
   167 K/uL
   9.9 g/dL
   157 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.4 mEq/L
   46 mg/dL
   108 mEq/L
   146 mEq/L
   29.3 %
   24.1 K/uL
        [image002.jpg]
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
                             [**2122-3-31**]  04:11 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   24.1
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   29.3
   Plt
   220
   174
   149
   159
   162
   173
   167
   Cr
   0.3
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   39
   38
   Glucose
   138
   168
   145
   167
   172
   166
   155
   157
   Other labs: PT / PTT / INR:13.2/39.5/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:148/94, Alk Phos / T Bili:305/13.1,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: C diff [**2122-3-30**] NEGATIVE
   Assessment and Plan
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   # Respiratory failure: Multifactorial (metastatic thymoma w/ pleural
   mets, infection, and possible GVHD like pulmonary disease).  Patient
   now with MRSA VAP.  Sputum grows MSSA and bronch grows MRSA.
   - cont linezolid and steroids
   - started linezolid [**2122-3-25**], last dose on [**2122-4-2**]
   - f/u blood cx
   # Anasarca: Pt 14L positive since admission, likely secondary to third
   spacing.
   - Try to limit fluid intake
   # Constipation: s/p disempaction.
   - Monitor
   # Hypotension: again multfactorial (infectious/adrenal insuf).
   Levophed as needed for MAP <60 (has been off for few days).
   #Heptatitis: Likely thymoma associated multiorgan autoimmunity (can see
   rise in LFTs, morbiliform rash, and GI involvement) vs drug induced.
   US w/ patent portal/hepatic veins.
   -- LFTs trending down
points toward hypersensitivity as improving with
   steroids, perhaps
   # Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   -- supportive care, continue cream
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci w/
   high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   # Thymoma: No active issues.
   # Goals of care
 decision is to continue max supportive care for now
   until middle of next week given Chinese new year and holiday week, then
   readdress terminal extubation and CMO on Wednesday
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-29**] 06:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: H2 blocker
   VAP:  On linezolid
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:

2122-03-31 12:42:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46F malignant thymoma admitted to [**Hospital Unit Name 44**] for worsening hepatitis, sepsis,
   hypoxic resp failure, now with VAP.
   24 Hour Events:
   remains off pressors
   continues to have diarrhea-> disimpacted
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-3-30**] 12:00 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-31**] 07:51 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-31**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 102 (76 - 104) bpm
   BP: 133/82(102) {112/64(82) - 143/94(114)} mmHg
   RR: 25 (9 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,086 mL
                                                                  1,028 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    558 mL
   IVF:
                                                                    406 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    890 mL
   Urine:
                                                                    785 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,301 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 276 (276 - 276) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 157
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: jaundiced, gross anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   167 K/uL
   157 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.4 mEq/L
   46 mg/dL
   108 mEq/L
   146 mEq/L
   29.3 %
   24.1 K/uL
        [image002.jpg]
                             [**2122-3-24**]  03:51 PM
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
                             [**2122-3-31**]  04:11 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   24.1
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   29.3
   Plt
   220
   174
   149
   159
   162
   173
   167
   Cr
   0.3
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   39
   38
   Glucose
   138
   168
   145
   167
   172
   166
   155
   157
   Other labs: PT / PTT / INR:13.2/39.5/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:148/94, Alk Phos / T Bili:305/13.1,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: no new data
   Assessment and Plan
   Active issues remain
   # Respiratory failure: multifactorial, met thymoma w/ pleural disease /
   restriction and ? GVHD from thymoma related autoimmune process, MRSA
   and MSSA VAP.
   - Continue day [**7-21**] linezolid for MSSA in sputum and MRSA in BAL,
   --Steroids for presumed GVHD of lung
   - Cont PSV for now with plan for terminal extubation later this week
   # Leukocytosis-[**3-17**] infection, steroids overall trending down, remains
   AF
   --Would repeat c diff cx and follow differential
   # Heptatitis: Drug induced vs thymoma-associated multiorgan
   autoimmunity. US w/ patent portal/hepatic veins.
   Bilis trending down slowly.
   --Continue to monitor
   # Rash: thymoma-associated multiorgan autoimmunity
   - sarna lotion, bendaryl prn itching, clobetasol cream
   # Myasthenia [**Last Name (un) **]: per neuro, in remission.
   # SAH:  CTA head demonstrates obliteration of the left frontal sulci w/
   high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   - neuro recs, appreciate their input.
   # Goals of care
we continue ccommunication and updates. Team has had
   extensive meetings with family. Pt is DNR. We continue current level of
   support through mid-wk to attempt to get the patient through the
   Chinese new year holiday and then, will readdress terminal extubation
   and CMO.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-3-30**] 04:08 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-04-01 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CXR showed dilated bowel
   -Rechecked C diff and got a KUB
   -KUB revealed "Limited as entire abdomen is not imaged and overlying
   wires. Ascites. No definite bowel obstruction."
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-4-1**] 12:18 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-31**] 11:08 PM
   Fentanyl - [**2122-3-31**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-1**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 96 (87 - 109) bpm
   BP: 106/65(80) {102/60(75) - 148/101(119)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,249 mL
                                                                    669 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    312 mL
   IVF:
                                                                    406 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,253 mL
                                                                    160 mL
   Urine:
                                                                    853 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 160 (160 - 276) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 114
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   9.2 g/dL
   182 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.4 mEq/L
   48 mg/dL
   106 mEq/L
   143 mEq/L
   28.3 %
   38.9 K/uL
        [image002.jpg]
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
                             [**2122-3-31**]  04:11 AM
                             [**2122-4-1**]  04:10 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   24.1
   38.9
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   29.3
   28.3
   Plt
   220
   174
   149
   159
   162
   173
   167
   147
   Cr
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   39
   38
   Glucose
   168
   145
   167
   172
   166
   155
   157
   182
   Other labs: PT / PTT / INR:13.3/37.5/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:138/81, Alk Phos / T Bili:266/12.9,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RASH
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   A 46 year old lady with malignant thymoma admitted to [**Hospital Unit Name 44**] for
   worsening shortness of breath, intubated, and worsening hepatitis now
   with VAP.
   # Respiratory failure: Multifactorial (metastatic thymoma w/ pleural
   mets, infection, and possible GVHD like pulmonary disease).  Patient
   now with MRSA VAP.  Sputum grows MSSA and bronch grows MRSA.
   - cont linezolid and steroids
   - cont linezolid [**2122-3-25**], last dose on [**2122-4-2**]
   - f/u blood cx
   # Anasarca: Pt 14L positive since admission, likely secondary to third
   spacing.
   - Try to limit fluid intake
   # Constipation: s/p disempaction. KUB limited but no obstruction.
   - Cont to monitor
   # Hypotension: again multfactorial (infectious/adrenal insuf).
   Levophed as needed for MAP <60 (has been off for few days).
   #Heptatitis: Likely thymoma associated multiorgan autoimmunity (can see
   rise in LFTs, morbiliform rash, and GI involvement) vs drug induced.
   US w/ patent portal/hepatic veins.
   -- LFTs trending down
points toward hypersensitivity as improving with
   steroids, perhaps
   # Rash: thymoma associated multiorgan autoimmunity (can see rise in
   LFTs, morbiliform rash, and GI involvement).  This autoimmune
   phenomenon has been reported in patients with extensive thymoma,
   pathophysiology resembles GVHD.
   -- supportive care, continue sarna/clobetasol
   # Myasthenia [**Last Name (un) **]: per neuro, has been in remission.  NIF has
   improved. Neuro is involved.
   #SAH:  CTA head demonstrates obliteration of the left frontal sulci w/
   high-density material likely due to subacute chronic subarachnoid
   hemorrhage, which is consistent w/ high RBC count seen on LP.  Unclear
   inciting [**Doctor Last Name **] may be platelet dysfunction and coagulopathy in setting
   of hepatitis.
   - monitor Neurologic status
   # Thymoma: No active issues.
   # Goals of care
 decision is to continue max supportive care for now
   until middle of next week given Chinese new year and holiday week, then
   readdress terminal extubation and CMO on Wednesday
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-4-1**] 03:17 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: H2blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2122-04-01 13:14:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  46F malignant thymoma admitted to [**Hospital Unit Name 44**] for worsening hepatitis,
   sepsis, hypoxic resp failure, now with VAP.
   24 Hour Events:
   ACV switched back to PS this am
   KUB without obstruction
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-4-1**] 12:02 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-4-1**] 08:04 AM
   Fentanyl - [**2122-4-1**] 12:17 PM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-1**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.7
C (96.2
   HR: 119 (92 - 119) bpm
   BP: 112/65(82) {102/60(75) - 148/101(119)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,249 mL
                                                                  1,244 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    585 mL
   IVF:
                                                                    406 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,253 mL
                                                                    465 mL
   Urine:
                                                                    853 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 299 (160 - 299) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 114
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.6 L/min
   Physical Examination
   Awake on vent, nad, dep edema
   Diminished BS, bb rales,
   RR
   + BS, NT, abd wall edema
   Palp distal pulses
   Labs / Radiology
   9.2 g/dL
   147 K/uL
   182 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.4 mEq/L
   48 mg/dL
   106 mEq/L
   143 mEq/L
   28.3 %
   38.9 K/uL
        [image002.jpg]
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
                             [**2122-3-31**]  04:11 AM
                             [**2122-4-1**]  04:10 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   24.1
   38.9
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   29.3
   28.3
   Plt
   220
   174
   149
   159
   162
   173
   167
   147
   Cr
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   39
   38
   Glucose
   168
   145
   167
   172
   166
   155
   157
   182
   Other labs: PT / PTT / INR:13.3/37.5/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:138/81, Alk Phos / T Bili:266/12.9,
   Differential-Neuts:82.6 %, Lymph:11.4 %, Mono:5.7 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: KUB--
   Assessment and Plan
   Active issues remain
   # Respiratory failure: multifactorial from met thymoma w/extensive
   pleural disease / restrictive physiology, ? GVHD from thymoma related
   autoimmune process, MRSA and MSSA VAP.  We have ctreated reversible
   issues, but pt remains vent dependent.
   - Continue day [**8-20**] linezolid for VAP
   --Steroids for presumed GVHD of lung
   - Cont PSV/AC for now with plan for terminal extubation tomorrow.
   # Leukocytosis-also multifactorial and [**3-17**] infection, steroids,
   reactive component, she remains AF and HD stable
   --C diff neg
   --will recheck differential, u/a and cx
   # Hepatitis: Drug induced vs thymoma-associated multiorgan
   autoimmunity. US w/ patent portal/hepatic veins.
   --lis trending down slowly. ? steroid effect
   # Rash: thymoma-associated multiorgan autoimmunity
   - sarna lotion, bendaryl prn itching, clobetasol cream
   # Myasthenia [**Last Name (un) **]: per neuro, in remission.
   # Goals of care
we continue family communication and updates. Team has
   had extensive meetings with family. Pt is DNR. Will meet with family
   today to discuss goals of care and plans for terminal extubation.  SW
   following and assisting.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2122-4-1**] 03:17 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   Addendum
   I met with pt
s family along with ICU team and [**Doctor Last Name 39**] from social
   work.  Pt
s children were present at family/husband request.  We
   discussed pt
s current status (reversible problems have been reversed)
   and plan for terminal extubation tomorrow, in line with pt
s expressed
   wishes.  This will take place after her older brother [**Name (NI) **] arrives from
   [**Name (NI) 652**].  All questions were answered.  Family understands that we will
   not reintubate, but rather will transition to aggressive comfort and
   that pt will likely expire without ventilatory support.  We are
   hopefull that she may be able to communicate at least briefly with her
   family, but stressed that need to assure pt comfort (medications) may
   prevent this. After this meeting, our team along with pt
s family
   relayed this information directly to the pt, who is intubated but alert
   and awake, and expressed her understanding.
   Additional crit care time spent in meetings and discussion:  70 min

2122-04-02 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family discussion held
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-4-1**] 12:02 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2122-4-1**] 12:17 PM
   Heparin Sodium (Prophylaxis) - [**2122-4-2**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 65 (62 - 119) bpm
   BP: 126/70(92) {84/47(59) - 126/70(92)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,067 mL
                                                                    343 mL
   PO:
             TF:
                                                                  1,021 mL
                                                                    126 mL
   IVF:
                                                                    431 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                     70 mL
   Urine:
                                                                    800 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 150 (150 - 299) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 121
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ////
   NIF: 0 cmH2O
   Ve: 5.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   9.2 g/dL
   182 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.4 mEq/L
   48 mg/dL
   106 mEq/L
   143 mEq/L
   28.3 %
   38.9 K/uL
        [image002.jpg]
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
                             [**2122-3-31**]  04:11 AM
                             [**2122-4-1**]  04:10 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   24.1
   38.9
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   29.3
   28.3
   Plt
   220
   174
   149
   159
   162
   173
   167
   147
   Cr
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   39
   38
   Glucose
   168
   145
   167
   172
   166
   155
   157
   182
   Other labs: PT / PTT / INR:13.3/37.5/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:138/81, Alk Phos / T Bili:266/12.9,
   Differential-Neuts:80.0 %, Band:3.0 %, Lymph:12.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RASH
 EDEMA, PERIPHERAL
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 HEPATITIS OTHER
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 LEUKOCYTOSIS
   # Respiratory failure: Multifactorial. Patient w/ metastatoc thymoma
   and pleural disease, ? GVHD from thymoma related autoimmune process,
   MRSA and MSSA VAP.  Despite treatment w/ broadspectrum abx and steroids
   patient remains vent dependent.
   - Completed course of linezolid for VAP
   - Plan for terminal extubation today.
   # Leukocytosis: UA c/w UTI
   - Change foley
   # Hepatitis: Drug induced vs thymoma-associated multiorgan
   autoimmunity. US w/ patent portal/hepatic veins.
   # Rash: thymoma-associated multiorgan autoimmunity
   - sarna lotion, bendaryl prn itching, clobetasol cream
   # Myasthenia [**Last Name (un) **]: In remission.
   # Goals of care: Patient is DNR/DNI and family will be present this AM
   for terminal extubation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-02 12:41:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   required levophed breifly overnight
   Allergies:
   Penicillins
   Rash;
   Sulfamethoxazole/Trimethoprim (Oral)
   Rash; Facial fl
   Last dose of Antibiotics:
   Linezolid - [**2122-4-1**] 12:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-4-2**] 12:15 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-2**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 63 (62 - 99) bpm
   BP: 119/57(77) {84/47(59) - 126/70(92)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.6 kg (admission): 45.9 kg
   Height: 60 Inch
             Total In:
                                                                  2,067 mL
                                                                    411 mL
   PO:
             TF:
                                                                  1,021 mL
                                                                    126 mL
   IVF:
                                                                    431 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    150 mL
   Urine:
                                                                    800 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 150 (150 - 150) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 121
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ////
   NIF: 0 cmH2O
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   147 K/uL
   182 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.4 mEq/L
   48 mg/dL
   106 mEq/L
   143 mEq/L
   28.3 %
   38.9 K/uL
        [image002.jpg]
                             [**2122-3-25**]  03:46 AM
                             [**2122-3-25**]  11:52 AM
                             [**2122-3-26**]  05:09 AM
                             [**2122-3-27**]  04:11 AM
                             [**2122-3-27**]  04:40 AM
                             [**2122-3-28**]  05:21 AM
                             [**2122-3-29**]  03:43 AM
                             [**2122-3-30**]  04:35 AM
                             [**2122-3-31**]  04:11 AM
                             [**2122-4-1**]  04:10 AM
   WBC
   40.8
   33.9
   22.9
   22.3
   20.2
   23.6
   24.1
   38.9
   Hct
   27.6
   26.0
   23.8
   27.8
   27.5
   28.6
   29.3
   28.3
   Plt
   220
   174
   149
   159
   162
   173
   167
   147
   Cr
   0.2
   0.3
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   39
   38
   Glucose
   168
   145
   167
   172
   166
   155
   157
   182
   Other labs: PT / PTT / INR:13.3/37.5/1.1, CK / CKMB /
   Troponin-T:405/62/0.16, ALT / AST:138/81, Alk Phos / T Bili:266/12.9,
   Differential-Neuts:80.0 %, Band:3.0 %, Lymph:12.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:675 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   We are moving toward terminal extuabtion today.  Will focus on
   aggressive comfort using morphine as needed.  Family at bedside.
   # Respiratory failure: multifactorial from met thymoma w/extensive
   pleural disease / restrictive physiology, ? GVHD from thymoma related
   autoimmune process, MRSA and MSSA VAP.  We have ctreated reversible
   issues, but pt remains vent dependent.
   - Continue day [**8-20**] linezolid for VAP
   --Steroids for presumed GVHD of lung
   - Cont PSV/AC for now with plan for terminal extubation tomorrow.
   # Leukocytosis-also multifactorial and [**3-17**] infection, steroids,
   reactive component, she remains AF and HD stable
   --C diff neg
   --will recheck differential, u/a and cx
   # Hepatitis: Drug induced vs thymoma-associated multiorgan
   autoimmunity. US w/ patent portal/hepatic veins.
   --lis trending down slowly. ? steroid effect
   # Rash: thymoma-associated multiorgan autoimmunity
   - sarna lotion, bendaryl prn itching, clobetasol cream
   # Myasthenia [**Last Name (un) **]: per neuro, in remission.
   # Goals of care
we continue family communication and updates. Team has
   had extensive meetings with family. Pt is DNR. Will meet with family
   today to discuss goals of care and plans for terminal extubation.  SW
   following and assisting.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-3-21**] 08:00 PM
   PICC Line - [**2122-3-22**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill